US07375087B2
3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-[(4-{(1E)-2-[2-(sulfamoylamino)ethylcarbamoyl]vinyl}-2-methylphenyl)methyl]-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 26 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole and N-sulfamoylethylenediamine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole and ammonium chloride, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)\C=C\C(=O)O)C)C(C)C | C31H38N2O12
reactant | N-sulfamoylethylenediamine | S(N)(=O)(=O)NCCN | C2H9N3O2S
reactant | ammonium chloride | [Cl-].[NH4+]
product | 3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-[(4-{(1E)-2-[2-(sulfamoylamino)ethylcarbamoyl]vinyl}-2-methylphenyl)methyl]-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)\C=C\C(NCCNS(N)(=O)=O)=O)C)C(C)C | C25H37N5O9S
